US09290465B2
To a suspension of 4-(4-fluoro-benzyloxy)-benzaldehyde (21.9 g, 95.2 mmol) and hydroxylamine hydrochloride (7.3 g, 105 mmol) in 400 mL water/ethanol 9:1 was added a solution of NaOH (9.5 g in 100 mL of water) dropwise over 15 min. The now yellow solution was stirred for 2 h at rt after which the reaction was adjusted to pH 5-6 with acetic acid. The resulting white precipitate was collected by filtration and washed with water. The wet filter cake was dissolved in ethyl acetate and dried over Na2SO4. Filtration followed by removal of volatiles under reduced pressure gave 4-(4-fluoro-benzyloxy)-benzaldehyde oxime (23.5 g, 95.8 mmol) as a yellowish crystalline solid.

reactant | 4-(4-fluoro-benzyloxy)-benzaldehyde | 95.2 mmol, 21.9 g | FC1=CC=C(COC2=CC=C(C=O)C=C2)C=C1 | C14H11FO2
reactant | hydroxylamine hydrochloride | 105 mmol, 7.3 g | Cl.NO
reactant | NaOH | 100 mL, 9.5 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water ethanol | 400 mL | O.C(C)O
product | 4-(4-fluoro-benzyloxy)-benzaldehyde oxime | 95.8 mmol, 23.5 g | FC1=CC=C(COC2=CC=C(C=NO)C=C2)C=C1 | C14H12FNO2
